data_prep/sources/art_augmented_reactions.json
{"conditions": [], "steps": [{"reactants": "COC1[C@H](CF)C[C@H]2CC=CC[C@H]2[C@@H]1NO.C=O", "products": "COC1[C@H](CF)C[C@H]2CC=CC[C@H]2[C@@H]1[NH+](O)C[O-]"}, {"reactants": "COC1[C@H](CF)C[C@H]2CC=CC[C@H]2[C@@H]1[NH+](O)C[O-]", "products": "COC1[C@H](CF)C[C@H]2CC=CC[C@H]2[C@@H]1N(O)CO"}, {"reactants": "COC1[C@H](CF)C[C@H]2CC=CC[C@H]2[C@@H]1N(O)CO", "products": "C=[N+](O)[C@@H]1C(OC)[C@H](CF)C[C@H]2CC=CC[C@H]21.[OH-]"}, {"reactants": "C=[N+](O)[C@@H]1C(OC)[C@H](CF)C[C@H]2CC=CC[C@H]21", "products": "C=[N+]([O-])[C@@H]1C(OC)[C@H](CF)C[C@H]2CC=CC[C@H]21"}, {"reactants": "C=[N+]([O-])[C@@H]1C(OC)[C@H](CF)C[C@H]2CC=CC[C@H]21", "products": "COC1[C@H](CF)C[C@H]2CC3O[N@]4CC3C[C@H]2[C@@H]14"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "COC12OC(OC1Cl)C(OS(=O)(=O)c1ccc(C)cc1)C(OS(=O)(=O)c1ccc(C)cc1)C2OS(=O)(=O)c1ccc(C)cc1.[O-]C", "products": "COC12OC(C=C(OS(=O)(=O)c3ccc(C)cc3)C1OS(=O)(=O)c1ccc(C)cc1)OC2Cl"}, {"reactants": "COC12OC(C=C(OS(=O)(=O)c3ccc(C)cc3)C1OS(=O)(=O)c1ccc(C)cc1)OC2Cl.[O-]C", "products": "COC12OC(C=C([O-])C1OS(=O)(=O)c1ccc(C)cc1)OC2Cl"}, {"reactants": "COC12OC(C=C([O-])C1OS(=O)(=O)c1ccc(C)cc1)OC2Cl", "products": "COC12OC(OC1Cl)C1C(=O)C12"}, {"reactants": "COC12OC(OC1Cl)C1C(=O)C12.[O-]C", "products": "COC1([O-])C2C3OC(Cl)C(OC)(O3)C21"}, {"reactants": "COC1([O-])C2C3OC(Cl)C(OC)(O3)C21.CO", "products": "COC(=O)C1CC2(OC)OC1OC2Cl"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1cc(NN=CCc2ccccc2)cc(F)c1OC.Cl[Zn]Cl", "products": "COc1cc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc(F)c1OC"}, {"reactants": "COc1cc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc(F)c1OC", "products": "COc1cc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc(F)c1OC.[H+]"}, {"reactants": "COc1cc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc(F)c1OC", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2c(F)cccc2OC)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2c(F)cccc2OC)C(=N)C=C1", "products": "COc1c(F)cc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1OC"}, {"reactants": "COc1c(F)cc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1OC", "products": "COc1c(F)cc2c(c1OC)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "COc1c(F)cc2c(c1OC)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "COc1c(F)cc2c(c1OC)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "COc1c(F)cc2c(c1OC)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "COc1c(F)cc2c(c1OC)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "COc1c(F)cc2c(c1OC)C(c1ccccc1)C=[NH+]2", "products": "COc1c(F)cc2[nH]cc(-c3ccccc3)c2c1OC.[H+]"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)C)c([Si](C)(C)CCl)cc21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)CCl)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)CCl)cc1=C", "products": "C[C@]12CC[C@@H]3c4cc([Si](C)(C)C)c([Si](C)(C)CCl)cc4CC[C@H]3[C@@H]1CCC2=O"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "COc1ccc(Cl)cc1C(=O)C1C2CCC1C2", "products": "COc1ccc(Cl)cc1[C]([O])C1C2CCC1C2"}, {"reactants": "COc1ccc(Cl)cc1[C]([O])C1C2CCC1C2", "products": "COc1ccc(Cl)cc1C([O])=CC1C[CH]CC1"}, {"reactants": "COc1ccc(Cl)cc1C([O])=CC1C[CH]CC1", "products": "COc1ccc(Cl)cc1C(O)=CC1C=CCC1"}, {"reactants": "COc1ccc(Cl)cc1C(O)=CC1C=CCC1", "products": "COc1ccc(Cl)cc1C(=O)CC1C=CCC1"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "Cc1ccc(Cl)cc1C(=O)C1C2CCC1C2", "products": "Cc1ccc(Cl)cc1[C]([O])C1C2CCC1C2"}, {"reactants": "Cc1ccc(Cl)cc1[C]([O])C1C2CCC1C2", "products": "Cc1ccc(Cl)cc1C([O])=CC1C[CH]CC1"}, {"reactants": "Cc1ccc(Cl)cc1C([O])=CC1C[CH]CC1", "products": "Cc1ccc(Cl)cc1C(O)=CC1C=CCC1"}, {"reactants": "Cc1ccc(Cl)cc1C(O)=CC1C=CCC1", "products": "Cc1ccc(Cl)cc1C(=O)CC1C=CCC1"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c1cc([Si](C)(C)C)c([Si](C)(C)CF)c2C", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(C)c([Si](C)(C)CF)c([Si](C)(C)C)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(C)c([Si](C)(C)CF)c([Si](C)(C)C)cc1=C", "products": "Cc1c2c(cc([Si](C)(C)C)c1[Si](C)(C)CF)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
